US07691882B2
2-Benzyl-5-((E)-2-nitro-vinyl)-pyridine
A mixture of 6-benzyl-pyridine-3-carbaldehyde (4.7 g, 24 mmol) described in Manufacturing Example 210-1-4, nitromethane (7.3 g, 120 mmol), ammonium acetate (5.6 g, 72 mmol), and acetic acid (40 mL) was stirred for 90 minutes at 100° C. The reaction solution was partitioned into ethyl acetate and water. The organic layer was washed with saturated aqueous sodium bicarbonate and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (1.2 g, 21%).

reactant | 6-benzyl-pyridine-3-carbaldehyde | 24 mmol, 4.7 g | C(C1=CC=CC=C1)C1=CC=C(C=N1)C=O | C13H11NO
reactant | nitromethane | 120 mmol, 7.3 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 72 mmol, 5.6 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 2-Benzyl-5-((E)-2-nitro-vinyl)-pyridine | 1.2 g, 21% | C(C1=CC=CC=C1)C1=NC=C(C=C1)\C=C\[N+](=O)[O-] | C14H12N2O2
